US05358955
2-Methoxy-2-[4-(quinolin-2-yl-methoxy)phenyl]acetic acid N-hydroxy-N-methyl-amide
The desired material was prepared according to the procedures described in Example 5 substituting 2-methoxy-2-[4-(quinolin-2-yl-methoxy)phenyl]acetic acid for {[1-(3-[2-naphthylmethoxy]phenyl)-4-phenylbutyl]oximino}acetic acid. 1H NMR (DMSO-d6, 300 MHz) δ 3.06 (s, 3H), 3.21 (s, 3H), 5.24 (s, 1H), 5.37 (s, 2H), 7.03 (d, J=7Hz, 2H), 7.3 (d, J=7Hz, 2H), 7.63 (m, 1H), 7.68 (d, J=8Hz, 1H), 7.8 (dt, J=8Hz, 2Hz, 1H), 8.0 (m, 2H), 8.42 (d, J=8Hz, 1H), 9.9 (s, 1H). IR (CDCl3): 3640, 3500, 3220, 1640, 1610 cm-1. MS (DCI/NH3) m/e 353 (M+H)+. Analysis calcd for C20H20N2O4 : C, 68.17; H, 5.72; N, 7.95. Found: C, 67.32; H, 5.61; N, 7.94.

reactant | 2-methoxy-2-[4-(quinolin-2-yl-methoxy)phenyl]acetic acid | COC(C(=O)O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C19H17NO4
reactant | {[1-(3-[2-naphthylmethoxy]phenyl)-4-phenylbutyl]oximino}acetic acid | C1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)C(CCCC1=CC=CC=C1)ON=CC(=O)O | C29H27NO4
reactant | NH3 | N | H3N
product | 2-Methoxy-2-[4-(quinolin-2-yl-methoxy)phenyl]acetic acid N-hydroxy-N-methyl-amide | ON(C(C(C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)OC)=O)C | C20H20N2O4
